US08084469B2
5-(4-Ethylphenyl)-1-[(4-hydroxypiperidin-1-yl)carbonyl]piperidine-3-carboxylic acid [racemic cis isomer]
880 mg (2.24 mmol) of ethyl 5-(4-ethylphenyl)-1-[(4-hydroxypiperidin-1-yl)carbonyl]piperidine-3-carboxylate were dissolved in a mixture of 15.5 ml of dioxane and 7.7 ml of water, 215 mg (8.97 mmol) of lithium hydroxide were added and the mixture was stirred at RT overnight. For workup, the reaction solution was concentrated under reduced pressure, then water was added and the mixture was acidified with 1N hydrochloric acid. The precipitate formed was filtered off, washed and dried under reduced pressure. The filtrate was extracted with ethyl acetate. The combined organic phases were dried over sodium sulphate and concentrated under reduced pressure. The two solids gave a total yield of 764 mg (95% of theory).

reactant | ethyl 5-(4-ethylphenyl)-1-[(4-hydroxypiperidin-1-yl)carbonyl]piperidine-3-carboxylate | 2.24 mmol, 880 mg | C(C)C1=CC=C(C=C1)C1CC(CN(C1)C(=O)N1CCC(CC1)O)C(=O)OCC | C22H32N2O4
reactant | lithium hydroxide | 8.97 mmol, 215 mg | [OH-].[Li+]
solvent | dioxane | 15.5 ml | O1CCOCC1 | C4H8O2
solvent | water | 7.7 ml | O | H2O
product | 5-(4-Ethylphenyl)-1-[(4-hydroxypiperidin-1-yl)carbonyl]piperidine-3-carboxylic acid | C(C)C1=CC=C(C=C1)C1CC(CN(C1)C(=O)N1CCC(CC1)O)C(=O)O | C20H28N2O4
